US07612108B2
Using [3-cyano-4-(isobutylthio)phenyl]boronic acid and methyl 5-bromothiophene-2-carboxylate, 5-[3-cyano-4-(isobutylthio)phenyl]thiophene-2-carboxylic acid was obtained in accordance with the method of Example 2. Then, 333 mg of the resulting 5-[3-cyano-4-(isobutylthio)phenyl]thiophene-2-carboxylic acid was suspended into 10 ml of ethanol, and 1.05 ml of a 1 M aqueous sodium hydroxide solution was added to the suspension, followed by stirring at room temperature for 20 minutes. The reaction solution was concentrated under reduced pressure, the residue was suspended into 2-propanol, and the precipitate was collected by filtration to obtain 256 mg of sodium 5-[3-cyano-4-(isobutylthio)phenyl]thiophene-2-carboxylate.

reactant | 5-[3-cyano-4-(isobutylthio)phenyl]thiophene-2-carboxylic acid | 333 mg | C(#N)C=1C=C(C=CC1SCC(C)C)C1=CC=C(S1)C(=O)O | C16H15NO2S2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | sodium 5-[3-cyano-4-(isobutylthio)phenyl]thiophene-2-carboxylate | 256 mg | C(#N)C=1C=C(C=CC1SCC(C)C)C1=CC=C(S1)C(=O)[O-].[Na+] | InChI=1S/C16H15NO2S2.Na/c1-10(2)9-20-13-4-3-11(7-12(13)8-17)14-5-6-15(21-14)16(18)19;/h3-7,10H,9H2,1-2H3,(H,18,19);/q;+1/p-1
